US09255121B2
Preparation of (3R,4S,5R)—N-(3-fluorophenyl)-3,4-dihydroxy-5-(hydroxymethyl)-N-methyltetrahydrofuran-2-carboxamide
(3R,4R,5R)-3,4-Bis(benzoyloxy)-5-(benzoyloxymethyl)tetrahydrofuran-2-carboxylic acid (3,4,6-tri-O-benzoyl-2,5-anhydro-D-allonic acid, 2 g, 4 mmol) was dissolved in anhydrous THF (40 mL) under argon atmosphere. To this, triphenylphosphine (2.1 g, 8 mmol) was added and the mixture was stirred until it was dissolved completely. To this clear solution, 2,2′-dipyridyldisulfide (1.8 g, 8 mmol) was added and the mixture was stirred at room temperature for 2 hours, after which, 3-fluoro-N-methylaniline (0.7 g, 5.6 mmol) was added and stirring was continued at room temperature for 16 hours. The solvent was evaporated to dryness, the residue was dissolved in chloroform (150 ml), the solution washed twice with 0.1M NaOH solution (100 mL), twice with 0.2 M HCl solution (100 mL), once with saturated NaHCO3 solution (100 mL), and then dried over Na2SO4. The solution was evaporated to dryness and the residue was re-dissolved in methanolic ammonia (7M solution, 250 mL). The solution was stirred for 16 hours at room temperature and evaporated to dryness. The crude product was purified by silica gel chromatography using a mixture of chloroform-methanol (3:1) and evaporation of the appropriate fractions yielded the title compound as a colorless oil (0.5 g, 1.7 mmol, 42%): MS (ES) m/z 308 [M+Na]+, 284 [M−H]−.

reactant | (3R,4R,5R)-3,4-Bis(benzoyloxy)-5-(benzoyloxymethyl)tetrahydrofuran-2-carboxylic acid | 4 mmol, 2 g | C(C1=CC=CC=C1)(=O)O[C@H]1C(O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)C(=O)O | C27H22O9
reactant | triphenylphosphine | 8 mmol, 2.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,2′-dipyridyldisulfide | 8 mmol, 1.8 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
reactant | 3-fluoro-N-methylaniline | 5.6 mmol, 0.7 g | FC=1C=C(NC)C=CC1 | C7H8FN
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (3R,4S,5R)—N-(3-fluorophenyl)-3,4-dihydroxy-5-(hydroxymethyl)-N-methyltetrahydrofuran-2-carboxamide | 1.7 mmol, 0.5 g, 42% | FC=1C=C(C=CC1)N(C(=O)C1O[C@@H]([C@H]([C@H]1O)O)CO)C | C13H16FNO5
